US06166028
(3,5-Dichloro-4-ethoxy-phenyl)-carbamic acid tert-butyl ester
To a solution of (3,5-dichloro-4-hydroxy-phenyl)-carbamic acid tert-butyl ester (1.0 g) and potassium carbonate (1.0 g) in acetone (18 mL) is added ethyl iodide (0.36 mL) and the mixture is stirred for approximately 15 hours at room temperature. The solution is then filtered, concentrated under reduced pressure, and partitioned between ethyl acetate and water. The separated aqueous layer is further extracted twice with ethyl acetate, and the pooled organic extracts are washed successively with 10% aqueous sodium hydroxide, with water, and then dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave the desired product as a tan solid.

reactant | (3,5-dichloro-4-hydroxy-phenyl)-carbamic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)O)Cl)=O | C11H13Cl2NO3
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.36 mL | C(C)I | C2H5I
solvent | acetone | 18 mL | CC(=O)C | C3H6O
product | (3,5-Dichloro-4-ethoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)OCC)Cl)=O | C13H17Cl2NO3
